US04055561
Following essentially the same procedure described in Example IV but substituting α-methyl-ρ-tridecylbenzylamine hydrochloride for the α-methyl-ρ-phenethylbenzylamine hydrochloride above, results in the formation of 2-(α-methyl-ρ-tridecylbenzylimino)hexahydroazepine hydrochloride having a M.P. 183°-5° C.

reactant | α-methyl-ρ-tridecylbenzylamine hydrochloride | Cl.CC(C1=CC=C(C=C1)CCCCCCCCCCCCC)N
reactant | α-methyl-ρ-phenethylbenzylamine hydrochloride | Cl.CC(C1=CC=C(C=C1)CCC1=CC=CC=C1)N
product | 2-(α-methyl-ρ-tridecylbenzylimino)hexahydroazepine hydrochloride | Cl.CC(C1=CC=C(C=C1)CCCCCCCCCCCCC)N=C1NCCCCC1 | InChI=1S/C27H46N2.ClH/c1-3-4-5-6-7-8-9-10-11-12-14-17-25-19-21-26(22-20-25)24(2)29-27-18-15-13-16-23-28-27;/h19-22,24H,3-18,23H2,1-2H3,(H,28,29);1H
